US08202417B2
(2E)-3-(Napht-1-yl)-prop-2-en-1-ol (9)
In an inert atmosphere, 3.5 g (15.5 mmol) of ester 8 was dissolved in 70 ml of dry dichloromethane and the yellow solution was cooled to −20° C. In this solution, 32 ml (32.2 mmol) of 1M solution of diisobutylaluminium hydride (DIBAL-H) in toluene was added gradually and drop-wise. It was stirred over three hours from −20° C. to −10° C. and then for another hour at 0° C. In the obtained solution 30 ml of ethanol and 50 ml of saturated aqueous solution of potassium sodium tartarate (Rochelle salt) were added. Layers were separated, and the aqueous layer was washed with dichloromethane (3×50 ml). The organic layers were combined and dried over anhydrous sodium sulphate. Filtration and evaporation yields a red-yellow oil which was purified by chromatography over a silica gel column with hexane:ethyl-acetate=2:1 as the mobile phase. Yields 2.6 g (91%) of the oil product; 1H NMR (CDCl3) δ: 1.68 (bs, 1H, OH), 4.42 (d, 2H, J=5.4 Hz, CHCH2OH), 6.38 (dt, 1H, J=15.8 Hz, J=5.4 Hz, CHCH2), 7.37 (d, 1H, J=15.8 Hz), 7.42-8.15 (7H, m, ArH) ppm; 13C NMR (CDCl3) δ: 63.44 (CH2OH); 123.26 (CH); 123.44 (CH); 125.13 (CH); 125.31 (CH); 125.57 (CH); 127.55 (CH); 127.71 (CH); 128.05 (CH); 130.68 (C); 131.31 (CH); 133.12 (C); 133.97 (C) ppm.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | potassium sodium tartarate | C(C(O)C(O)C(=O)[O-])(=O)[O-].[Na+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | (2E)-3-(Napht-1-yl)-prop-2-en-1-ol | 2.6 g, 91% | C1(=CC=CC2=CC=CC=C12)/C=C/CO | C13H12O
